US07494992B2
Preparation 41: 5-methyl-5-(2-pyridinyl)-2-piperidone
To methyl 4-cyano-4-(2-pyridinyl)pentanoate (Preparation 42, 2.5 g, 11.4 mmol) in ethanol (30 ml) was added Raney nickel (3 g) and the reaction mixture was hydrogenated for 78 h. The reaction mixture was filtered through Celite® washing with ethanol (3.20 ml). The combined organic extracts were concentrated in vacuo to give the crude desired product (2.2 g) which was purified by flash chromatography eluting with dichloromethane:methanol (96:7) to give the pure product as an oil (1.1 g, 5.1%).

reactant | methyl 4-cyano-4-(2-pyridinyl)pentanoate | 11.4 mmol, 2.5 g | C(#N)C(CCC(=O)OC)(C)C1=NC=CC=C1 | C12H14N2O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Raney nickel | 3 g | [Ni] | Ni
product | 5-methyl-5-(2-pyridinyl)-2-piperidone | 1.1 g, 5.1% | CC1(CCC(NC1)=O)C1=NC=CC=C1 | C11H14N2O
